US07763584B2
To a mixture of ethyl 1(R)-[1-[2(S)-(tert-butoxycarbonylamino)-3-[N-cyclopropyl-N-(pent-4-enyl)amino]propanoyl]-4(R)-hydroxypyrrolidine-2(S)-carboxamido]-2(S)-vinylcyclopropanecarboxylate (1.55 g, 2.75 mmoL) in 10 mL of DMF was added imidazole (0.47 g, 6.88 mmoL) and tert-butyldimethylsilyl chloride (826 mg, 5.50 mmoL). The mixture was stirred at rt for 18 h, concentrated in vacuo, and partitioned between ethyl acetate and water. The organic phase was dried over magnesium sulfate, and concentrated in vacuo to obtain an off-white solid. Flash chromatography (eluting with methylene chloride and then ethyl acetate) gave ethyl 1(R)-[1-[2(S)-(tert-butoxycarbonylamino)-3-[N-cyclopropyl-N-(pent-4-enyl)amino]propanoyl]-4(R)-(tert-butyldimethylsilyloxy)pyrrolidine-2(S)-carboxamido]-2(S)-vinylcyclopropanecarboxylate as a white solid (1.75 g, 94%):

reactant | ethyl 1(R)-[1-[2(S)-(tert-butoxycarbonylamino)-3-[N-cyclopropyl-N-(pent-4-enyl)amino]propanoyl]-4(R)-hydroxypyrrolidine-2(S)-carboxamido]-2(S)-vinylcyclopropanecarboxylate | 1.55 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](C[C@H](C1)O)C(=O)N[C@]1([C@@H](C1)C=C)C(=O)OCC)CN(CCCC=C)C1CC1 | C29H46N4O7
reactant | imidazole | 0.47 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 826 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | ethyl 1(R)-[1-[2(S)-(tert-butoxycarbonylamino)-3-[N-cyclopropyl-N-(pent-4-enyl)amino]propanoyl]-4(R)-(tert-butyldimethylsilyloxy)pyrrolidine-2(S)-carboxamido]-2(S)-vinylcyclopropanecarboxylate | 1.75 g, 94% | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)N[C@]1([C@@H](C1)C=C)C(=O)OCC)CN(CCCC=C)C1CC1 | C35H60N4O7Si
